* CMOS Inverter VTC - 0.18um minimum area design
.include MOSFET_models_0p5_0p18-4.inc

V1 vdd 0 1.8
V2 vin 0 0

M2 vo vin vdd vdd PMOS0P18 w=0.9u l=0.18u
M1 vo vin 0   0   NMOS0P18 w=0.9u l=0.18u

R1 vo n1 1k
C1 n1 0  0.2p

.dc V2 0 1.8 0.01

.end
