* CMOS Inverter VTC - 0.5um minimum area design
.include MOSFET_models_0p5_0p18-4.inc

V1 vdd 0 3.3
V2 vin 0 0

M2 vo vin vdd vdd PMOS0P5 w=1.25u l=0.5u
M1 vo vin 0   0   NMOS0P5 w=1.25u l=0.5u

R1 vo n1 1k
C1 n1 0  0.5p

.dc V2 0 3.3 0.01

.end
