A3delaymatched
.include MOSFET_models_0p5_0p18-4.inc

V1  vdd  0   3.3
V2  vin  0   PULSE(0 3.3 0 10p 10p 5n 10n 1)

M2  vo   vin  vdd  vdd  PMOS0P5  w=5u     l=0.5u
M1  vo   vin  0    0    NMOS0P5  w=1.25u  l=0.5u

R1  vo   n1   1k
C1  n1   0    0.5p

.tran 0.01n 10n

.meas tran tpHL TRIG V(vin) VAL=1.65 RISE=1 TARG V(n1) VAL=1.65 FALL=1
.meas tran tpLH TRIG V(vin) VAL=1.65 FALL=1 TARG V(n1) VAL=1.65 RISE=1

.end
