A2unmatched
.include MOSFET_models_0p5_0p18-4.inc

V1  vdd  0   1.8
V2  vin  0   PULSE(0 1.8 0 10p 10p 5n 10n 1)

M2  vo   vin  vdd  vdd  PMOS0P18  w=0.9u   l=0.18u
M1  vo   vin  0    0    NMOS0P18  w=0.9u   l=0.18u

R1  vo   n1   1k
C1  n1   0    0.2p

.tran 0.01n 10n

.meas tran tpHL TRIG V(vin) VAL=0.9 RISE=1 TARG V(n1) VAL=0.9 FALL=1
.meas tran tpLH TRIG V(vin) VAL=0.9 FALL=1 TARG V(n1) VAL=0.9 RISE=1

.end
