* 2-input CMOS NAND subcircuit
.subckt nand vin1 vin2 vo vdd gnd
M2 vo  vin1 vdd vdd PMOS0P18 w=1.8u l=0.18u
M1 vo  vin2 vdd vdd PMOS0P18 w=1.8u l=0.18u
M4 vo  vin1 n1  gnd NMOS0P18 w=0.9u l=0.18u
M3 n1  vin2 gnd gnd NMOS0P18 w=0.9u l=0.18u
.ends
