.subckt nand3 a b c vo vdd gnd
M1 vo a vdd vdd PMOS0P18 w=1.8u l=0.18u
M2 vo b vdd vdd PMOS0P18 w=1.8u l=0.18u
M3 vo c vdd vdd PMOS0P18 w=1.8u l=0.18u
M4 vo a n1  gnd NMOS0P18 w=2.7u l=0.18u
M5 n1 b n2  gnd NMOS0P18 w=2.7u l=0.18u
M6 n2 c gnd gnd NMOS0P18 w=2.7u l=0.18u
.ends